US07566724B2
Under an argon atmosphere, a suspension of N-(4-bromophenyl)pyrimidin-2-amine (250 mg), copper iodide (1.9 mg), trans-1,2-cyclohexanediamine (0.015 ml) and sodium-tert-butoxide (144 mg) in dioxane (1 ml) was stirred at 110° C. for 22 hours in a pressure-resistant test tube. The reaction solution was filtered and the filtrate was concentrated. The residue was purified by thin layer chromatography (silica gel, mobile phase: chloroform/ethyl acetate=5/1) to obtain N-(4-bromophenyl)-N-phenylpyrimidin-2-amine (56 mg).

reactant | N-(4-bromophenyl)pyrimidin-2-amine | 250 mg | BrC1=CC=C(C=C1)NC1=NC=CC=N1 | C10H8BrN3
reactant | trans-1,2-cyclohexanediamine | 0.015 ml | [C@@H]1([C@@H](CCCC1)N)N | C6H14N2
reactant | sodium-tert-butoxide | 144 mg | CC(C)([O-])C.[Na+]
solvent | dioxane | 1 ml | O1CCOCC1 | C4H8O2
catalyst | copper iodide | 1.9 mg | [Cu](I)I
product | N-(4-bromophenyl)-N-phenylpyrimidin-2-amine | 56 mg | BrC1=CC=C(C=C1)N(C1=NC=CC=N1)C1=CC=CC=C1 | C16H12BrN3
